* Z:\mnt\design.r\spice\examples\1303.asc
V1 IN 0 3.2
R1 OUT N003 474K
R2 N003 0 156K
L1 IN N001 22µ
D1 N001 OUT MBRS140
C2 OUT 0 100µ
XU1 0 N004 0 N003 N002 IN N001 0 LT1303 top=1K bot=1T
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1303.sub
.backanno
.end
